US08084644B2
Cyclopropylmethyl N-phenyl-3-(trimethylsilyl)thiopropynimidate (0.91 g) was dissolved in methanol (15 mL), a small amount of potassium carbonate was dissolved thereto at room temperature, and the mixture was stirred for 1 hour. 4-fluorothiophenol (0.35 mL) was added thereto and further stirred for 5.5 hours. The reaction mixture was concentrated under reduced pressure, then the residue was subjected to silica gel column chromatography (hexane/ethyl acetate=20/1), medium pressure HPLC(hexane/ethyl acetate=99.2/0.8-98.5/1.5) to obtain cyclopropylmethyl 3-(4-fluorophenylthio)-N-(phenyl)thioacrylimidate (0.84 g).

reactant | Cyclopropylmethyl N-phenyl-3-(trimethylsilyl)thiopropynimidate | 0.91 g | C1(=CC=CC=C1)N=C(C#C[Si](C)(C)C)SCC1CC1 | C16H21NSSi
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorothiophenol | 0.35 mL | FC1=CC=C(C=C1)S | C6H5FS
solvent | methanol | 15 mL | CO | CH4O
product | cyclopropylmethyl 3-(4-fluorophenylthio)-N-(phenyl)thioacrylimidate | 0.84 g | FC1=CC=C(C=C1)SC=CC(SCC1CC1)=NC1=CC=CC=C1 | C19H18FNS2
